US04374829
In the manner described in Example 26, ethyl-2-oxo-4-(4-fluoro-phenyl)butyrate and L-alanyl-L-proline are condensed in the presence of sodium cyanoborohydride to yield N-[1-ethoxycarbonyl-3-(4-fluorophenyl)-propyl]-L-alanyl-L-proline. The mass spectrum shows a molecular ion at 394, and strong peaks at 376 (M-18, H2O) and 375 (M-19, F). The nmr spectrum is consistent with the proposed structure. Elemental analysis indicates a sesquihydrate.

reactant | ethyl-2-oxo-4-(4-fluoro-phenyl)butyrate | C(C)OC(C(CCC1=CC=C(C=C1)F)=O)=O | C12H13FO3
reactant | L-alanyl-L-proline | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-[1-ethoxycarbonyl-3-(4-fluorophenyl)-propyl]-L-alanyl-L-proline | C(C)OC(=O)C(CCC1=CC=C(C=C1)F)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C20H27FN2O5
